US09120801B2
A solution containing 2-(piperidin-4-yl-methyl)-3,4-dihydropyrazino[1,2-b]indazol-1(2H)-one hydrochloride (528 mg; 1.64 mmol), potassium carbonate (610 mg; 4.4 mmol), 4-fluorophenethyl bromide (450 mg; 2.2 mmol) in ethanol (10 ml) was kept stirred under reflux for 24 h. The reaction was then stopped by cooling the mixture at room temperature and concentrating the solvent under reduced pressure. The residue was taken up with DCM (30 ml) and washed respectively with a saturated solution of NaHCO3 (2×20 ml), water (2×15 ml) and a saturated solution of NaCl (10 ml). The organic phase was then dried with Na2SO4 and the solvent was removed by evaporation at reduced pressure. The solid raw product was then purified by flash chromatography on silica gel, using as eluent a mixture of chloroform:methanol in a ratio of 9:1. The product thus purified was dissolved in a mixture of diethyl ether:ethanol in a ratio of 10:1 (10 ml) and treated at room temperature with 3M hydrochloric ethanol (0.33 ml). The solid thus formed was filtered and crystallized by a mixture isopropanol:diisopropyl ether in a ratio of 3:7. Thus, 250 mg of 2-({1-[2-(4-fluorophenyl)ethyl]piperidin-4-yl}methyl)-3,4-dihydropyrazino[1,2-b]-indazol-1(2H)-one hydrochloride were obtained.

reactant | 2-(piperidin-4-yl-methyl)-3,4-dihydropyrazino[1,2-b]indazol-1(2H)-one hydrochloride | 1.64 mmol, 528 mg | Cl.N1CCC(CC1)CN1C(C=2N(N=C3C=CC=CC23)CC1)=O
reactant | potassium carbonate | 4.4 mmol, 610 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorophenethyl bromide | 2.2 mmol, 450 mg | FC1=CC=C(CCBr)C=C1 | C8H8BrF
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-({1-[2-(4-fluorophenyl)ethyl]piperidin-4-yl}methyl)-3,4-dihydropyrazino[1,2-b]-indazol-1(2H)-one hydrochloride | 250 mg | Cl.FC1=CC=C(C=C1)CCN1CCC(CC1)CN1C(C=2N(N=C3C=CC=CC23)CC1)=O | InChI=1S/C24H27FN4O.ClH/c25-20-7-5-18(6-8-20)9-12-27-13-10-19(11-14-27)17-28-15-16-29-23(24(28)30)21-3-1-2-4-22(21)26-29;/h1-8,19H,9-17H2;1H
